*
* NGSPICE simulation script
* Lab1 circuit
*

* forces current values to be saved
.options savecurrents

* independent voltage source
VA N1 N4 5.156959346

* independent current source
ID N7 N5 1.01455683569m

* linearly dependent sources
* voltage-controlled current source
GB N5 N2 N3 N0 7.1497941196

* current-controlled voltage source
V0 N0 N7 DC 0
HC N0 N7 V0 9.12593642585

* resistors
*mesh A
R1 N1 N3 1.03431507833k
R3 N3 N0 3.1462050633k
R4 N0 N4 4.03438547455k

*mesh B
R2 N2 N3 2.02853090731k
R5 N0 N5 3.12170042214k

*mesh C
R6 N4 N6 4.0343857455k
R7 N6 N7 1.01587753093k

*mesh D

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
