*
* NGSPICE simulation script
* Lab2 circuit
*

* forces current values to be saved
.options savecurrents

* resistors
R1 N2 N1 1.03431507833k
R2 N3 N2 2.02853090731k
R3 N2 N5 3.1462050633k
R4 0 N5 4.03438547455k
R5 N5 N6 3.12170042214k
R6 0 N7 2.07116379646k
R7 N9 N8 1.01597753093k

* independent voltage source
Vs N1 0 0

* capacitor
Vx N6 N8 8.764397

* voltage-controlled current source
Gb N6 N3 N2 N5 7.1497941196m

* current-controlled voltage source
Hc N5 N8 Vaux 8.12593642585k

* auxiliar voltage source
Vaux N7 N9 DC 0

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"


echo  "op_TAB"
print @Vaux[i]
print @Hc[i]
print @Vs[i]
print all
echo  "op_END"

quit

.endc

.end
